Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Respiratory Distress
 
Major Surgical or Invasive Procedure:
NONE
 
History of Present Illness:
___ PMHx permanent atrial fibrillation on reduced dose apixaban
and metoprolol, CKD, HLD, hypothyroid who presents with shock 
and
hypoxic respiratory failure on BiPAP.

The patient was unable to talk due to respiratory distress. The
family reported several weeks of progressive lethargy and almost
daily falls with 3 days of progressive dyspnea, not speaking 
much
at home. Today he was in such bad respiratory distress that they
brought him to the ED.

Of note, at baseline he is not able to walk much for prolonged
periods of time due to leg weakness and dizziness with standing.
Falls frequently, upwards of several times each week. He has a
cane and a walker.

On arrival to the ED, found to be in respiratory distress and
tripod position, sating ___ on NRB mask. Bedside US showed a
globally reduced systolic function with a ? of focal 
hypokinesis.
New inferior Qs on EKG. 

In the ED,  
- Initial vitals were:  36.5 64 90/60 28 100% Non-Rebreather
- Labs notable for:  

VBG: ___, lactate 5.5

%HbA1c: 7.3

139  102  53  113   AGap=22 
=================
5.3  15  1.6  

- Studies notable for: Kyphoscoliosis, bilateral effusion,
bilateral interstitial opacities suggestive of pulm edema (my
read)

- Patient was given: ASA 600mg, Lorazepam 0.25, Morphine 2mg,
Lasix 20mg

On arrival to the CCU, patient was breathing very shallow tidal
volumes on BiPAP, gasping for small breaths. Completely
unresponsive. Conversation had with family about critical 
illness
and uncertain recovery. HCP ___ and son ___ agree that patient
would not want interventions focused on saving his life, such as
lab draws and uncomfortable procedures. Rather, we would focus 
on
measures to keep him comfortable. They have known ___ a very
long time. He is a WWII veteran and has been an amazing husband
and father. Family felt absolutely certain that ___ would want
to pass peacefully and comfortably. The family did not want to 
be
present for ___ passing, but did want to spend some time at 
the
bedside. Offered chaplain services and SW. Will call to update
family as clinical status unfolds.
 
Past Medical History:
Cardiac History:  
- Hypertension
- Dyslipidemia 
- Permanent AF

Other PMH:  
- Hypothyroidism
- CKD
- ___ cell carcinoma s/p resection ___ (left
cheek)
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION:
GENERAL: Thin, chronically ill appearing male gasping for breath
on BiPAP
HEENT: Normocephalic, atraumatic. Sclera anicteric. R pupil post
surgical and 1mm larger than L pupil, but both sluggishly
responsive to light
NECK: Supple. JVP elevated.  
CARDIAC: Tachy, irreg, Systolic murmur best at LUSB.
LUNGS: Breathing with accessory muscles on BiPAP, extremely 
small
tidal volume. No lung sounds at the bases and mid-lungs, slight
crackles at the apices.
ABDOMEN: Soft, non-tender, non-distended.
EXTREMITIES: Cold distally, although bilat DPs faintly palpable.
No ___ edema. 
NEURO: Winces to sternal rub, does not open eyes. Otherwise
unresponsive and does not verbalize.

DISCHARGE:
No cardiac electrical activity on telemetry. No cardiac or 
breath
sounds on exam. No response to noxious stimuli. L eye dilated 
and
non-responsive to light, right eye post-surgical and
non-responsive to light. Time of death 0340.
 
Pertinent Results:
ADMISSION:
___ 05:52PM BLOOD WBC-19.9* RBC-5.39 Hgb-15.0 Hct-47.2 
MCV-88 MCH-27.8 MCHC-31.8* RDW-14.7 RDWSD-46.9* Plt ___
___ 05:52PM BLOOD Neuts-86.7* Lymphs-5.4* Monos-7.2 
Eos-0.0* Baso-0.1 NRBC-0.2* Im ___ AbsNeut-17.26* 
AbsLymp-1.07* AbsMono-1.44* AbsEos-0.00* AbsBaso-0.02
___ 05:52PM BLOOD Plt ___
___ 05:52PM BLOOD ___ PTT-34.0 ___
___ 05:52PM BLOOD Na-<80*
___ 05:52PM BLOOD Glucose-113* UreaN-53* Creat-1.6* Na-139 
K-5.3 Cl-102 HCO3-15* AnGap-22*
___ 05:52PM BLOOD ALT-415* AST-545* CK(CPK)-1092* 
AlkPhos-224* TotBili-3.7*
___ 05:52PM BLOOD CK-MB-162* MB Indx-14.8* cTropnT-0.08*
___ 05:52PM BLOOD Albumin-4.2 Calcium-9.9 Phos-5.7* Mg-2.5
___ 05:52PM BLOOD %HbA1c-7.3* eAG-163*
___ 05:58PM BLOOD ___ pO2-28* pCO2-42 pH-7.25* 
calTCO2-19* Base XS--9
___ 05:58PM BLOOD Lactate-5.5*

CT TORSO ___:
1. Nondisplaced left L2 transverse process fracture. 
2. Bilateral striated nephrograms may be seen in the setting of 
acute 
pyelonephritis or acute tubular necrosis.  Correlation with 
urinalysis is 
recommended.  Differential also includes renal infarctions, 
however less 
likely. 
3. Large bilateral pleural effusions with associated compressive 
atelectasis.  
Subtle areas of hypoenhancement within the bilateral atelectatic 

consolidations may represent aspiration or superimposed 
infection the 
appropriate clinical setting. 
4. Circumferential bladder wall thickening may be secondary 
decompression, 
however correlation with urinalysis is recommended for acute 
cystitis. 
5. Reflux of intravenous contrast into the hepatic veins 
represents a 
component of right heart failure. 
6. Diffuse anasarca. 
7. Diverticulosis without evidence of acute diverticulitis. 
 
Brief Hospital Course:
___ PMHx permanent atrial fibrillation on reduced dose apixaban 
and metoprolol, CKD, HLD, hypothyroid who presents with shock 
and hypoxic respiratory failure on BiPAP.
  
Conversation had with family about critical illness and 
uncertain recovery. HCP ___ and son ___ agree that patient 
would not want interventions focused on saving his life, such as 
lab draws and uncomfortable procedures. Rather, we would focus 
on measures to keep him comfortable. They have known ___ a 
very long time. He was a WWII veteran and had been an amazing 
husband and father. Family felt absolutely certain that ___ 
would want to pass peacefully and comfortably.

Called to bedside ___ for concern that the patient had passed.
No cardiac electrical activity on telemetry. No cardiac or 
breath
sounds on exam. No response to noxious stimuli. L eye dilated 
and
non-responsive to light, right eye post-surgical and
non-responsive to light. Time of death 0340. Family and HCP Raya
notified. Autopsy declined. Admitting and PCP ___. Offered
SW and chaplain services. 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Vitamin D 1000 UNIT PO DAILY 
2. ferrous sulfate 140 mg (45 mg iron) oral DAILY 
3. Rosuvastatin Calcium 10 mg PO QPM 
4. MetFORMIN (Glucophage) 500 mg PO BID 
5. Apixaban 2.5 mg PO BID 
6. Sertraline 25 mg PO DAILY 
7. Finasteride 5 mg PO DAILY 
8. Metoprolol Succinate XL 12.5 mg PO DAILY 
 
Discharge Medications:
NONE
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Cardiogenic Shock
 
Discharge Condition:
Deceased
 
Discharge Instructions:
NONE
 
Followup Instructions:
___